US06864255B2
A mixture of the compound 2,4-dichloro-1,3,5-triazine (2.5 g, 16.7 mmol) and solid K2CO3 (6.9 g, 49.9 mmol) was suspended in AcCN (50 mL) under nitrogen at 0° C. followed by addition of N-methyl-3-chloroaniline (2.5 g, 17.7 mmol). The mixture was stirred at 0° C. for 2 h. The reaction was quenched by pouring onto ice/water. The white solid formed was collected by suction filtration and dried under vacuum to give N-methyl-2-chloro-4-(3-chloroanilino)-1,3,5-triazine. MS m/z=256. Calc'd for C10H8Cl2N4: 254.01.

reactant | 2,4-dichloro-1,3,5-triazine | 16.7 mmol, 2.5 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | K2CO3 | 49.9 mmol, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-3-chloroaniline | 17.7 mmol, 2.5 g | CNC1=CC(=CC=C1)Cl | C7H8ClN
solvent | AcCN | 50 mL | C(=O)(C)C#N | C3H3NO
product | N-methyl-2-chloro-4-(3-chloroanilino)-1,3,5-triazine | CN1C(N=C(N=C1)NC1=CC(=CC=C1)Cl)Cl | C10H10Cl2N4
